US07723367B2
2-(2,6-dimethylmorpholin-4-yl)nicotinonitrile
A solution of 2-fluoro-nicotinonitrile (1.06 g, 8.69 mmol) and 2,6-dimethyl-morpholine (1.0 g, 8.69 mmol) in tetrahydrofuran (10 ml) was heated at 110° C. for 10 min in a microwave reactor. The reaction mixture was concentrated and purified by flash column chromatography using hexanes:ethylacetate (2:1) to yield 0.37 g (40%) of product. MS (ESI+) m/z 218 (M+H)+;

reactant | 2-fluoro-nicotinonitrile | 8.69 mmol, 1.06 g | FC1=C(C#N)C=CC=N1 | C6H3FN2
reactant | 2,6-dimethyl-morpholine | 8.69 mmol, 1.0 g | CC1CNCC(O1)C | C6H13NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2,6-dimethylmorpholin-4-yl)nicotinonitrile | 0.37 g, 40% | CC1CN(CC(O1)C)C1=C(C#N)C=CC=N1 | C12H15N3O
